US08242125B2
61-A. (±)-5-methyl-4-oxo-3,4,5,7-tetrahydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester
To a suspension of NaH (9.72 g, 243 mmol, 60% in mineral oil) in toluene (100 mL), ethoxycarbonylamino-acetic acid ethyl ester (38 g, 187 mmol) is added at 0° C. The reaction is left stirring for 5 h at the same temperature. At that point but-2-enoic acid ethyl ester (25.6 g, 224 mmol) is added and the reaction allowed to warm up to rt and stirred for further 2 h. Ethanol (30 mL) is added and the reaction is then evaporated. The crude 1-tert-butyl 3-ethyl 2-methyl-4-oxopyrrolidine-1,3-dicarboxylate is dissolved in EtOH (1500 mL), then formamidine acetate (343 g, 1189 mmol) is added followed by sodium ethoxide (47.2 g, 694 mmol). The reaction is left stirring at 90° C. for 8 h. The solvent is then removed and to the crude material a saturated solution of NH4Cl (200 mL) is added followed by DCM (1 L). The water layer is extracted two times with DCM. The organics are dried and evaporate. The crude product is separated by FCC (DCM/MeOH 100:0 to 90:10) to give the title compound. MS (ESI) m/z 252.2 (M+1).

reactant | NaH | 243 mmol, 9.72 g | [H-].[Na+]
reactant | ethoxycarbonylamino-acetic acid ethyl ester | 187 mmol, 38 g | C(C)OC(CNC(=O)OCC)=O | C7H13NO4
reactant | but-2-enoic acid ethyl ester | 224 mmol, 25.6 g | C(C)OC(C=CC)=O | C6H10O2
reactant | formamidine acetate | 1189 mmol, 343 g | C(C)(=O)O.C(=N)N
reactant | sodium ethoxide | 694 mmol, 47.2 g | [O-]CC.[Na+]
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | Ethanol | 30 mL | C(C)O | C2H6O
product | (±)-5-methyl-4-oxo-3,4,5,7-tetrahydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CNC(C2C1C)=O | C12H17N3O3
